US07919046B2
To do this, sodium azide (2.781 g, 43 mmol) was dissolved in 170 ml of dimethylformamide (DMF). 5 ml of undecenyl bromide (36 mmol) were added, with stirring, to the reaction medium, which was subsequently heated at 80° C. for 24 hours. The mixture was left to cool to ambient temperature, and then 100 ml of water were added portionwise. An extraction with ethanol (3×100 ml) was subsequently carried out, and the organic phase was then washed with water (3×100 ml) and dried over sodium sulfate (Na2SO4). Finally, the solvent was evaporated off and 2.58 g of undecenyl azide (20.3 mmol; yield 60%) were isolated in the form of a pale yellow-colored transparent oil.

reactant | sodium azide | 43 mmol, 2.781 g | [N-]=[N+]=[N-].[Na+]
reactant | undecenyl bromide | 36 mmol, 5 ml | C(=CCCCCCCCCC)Br | C11H21Br
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 170 ml | CN(C=O)C | C3H7NO
product | undecenyl azide | 20.3 mmol, 2.58 g, yield 60% | C(=CCCCCCCCCC)N=[N+]=[N-] | C11H21N3
